US07067517B2
Methyl-phenyl-carbamic acid 4,4-dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-yl ester
A solution of 4,4-dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ol (0.86 g, 4.17 mmol), N-methyl-N-phenylcarbamoyl chloride (0.71 g, 4.17 mmol) and 1,4-diazabicyclo[2,2,2]octane (0.47 g, 4.17 mmol) in dichloromethane (10 mL) was stirred at room temperature for 2 hours. Extra dichloromethane was added and the solution was washed with water, dried over sodium sulphate, filtered and evaporated in vacuo. Crystallisation from ethyl acetate:heptane yielded the title compound (0.58 g, 41% yield)

reactant | 4,4-dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ol | 4.17 mmol, 0.86 g | CC1(CCN(CC1)C=1C=NC(=CC1)O)C | C12H18N2O
reactant | N-methyl-N-phenylcarbamoyl chloride | 4.17 mmol, 0.71 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2,2,2]octane | 4.17 mmol, 0.47 g | N12CCN(CC1)CC2 | C6H12N2
reactant | heptane | CCCCCCC | C7H16
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl-phenyl-carbamic acid 4,4-dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-yl ester | 0.58 g, 41% yield | CC1(CCN(CC1)C=1C=NC(=CC1)OC(N(C1=CC=CC=C1)C)=O)C | C20H25N3O2
